US07425568B2
2-(3-Bromophenyl)chroman-6-ol was prepared as described for 2-(3-fluorophenyl)chroman-6-ol in Example 9(c) starting from 700 mg of 2-(3-bromophenyl)chroman-4,6-diol. 1H NMR (400 MHz, d6-DMSO) δ: 8.81 (s, 1H), 7.61 (m, 1H), 7.51 (m, 1H), 7.43 (m, 1H), 7.35 (m, 1H), 6.67-6.48 (m, 3H), 5.01 (m, 1H), 2.87 (m, 1H), 2.63 (m, 1H), 2.12 (m, 1H), 1.92 (m, 1H).

reactant | 2-(3-fluorophenyl)chroman-6-ol | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
reactant | 2-(3-bromophenyl)chroman-4,6-diol | 700 mg | BrC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13BrO3
product | 2-(3-Bromophenyl)chroman-6-ol | BrC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13BrO2
